US08623860B2
1-(4-Bromophenyl)propane-2-amine
A mixture of 25.0 g (0.12 mol) 4-bromophenylacetone and 400 mL 7N ammonia in MeOH is charged with 1.20 g Raney nickel. The mixture is stirred in an hydrogen atmosphere (15 psi) at r.t. over night. Again 0.6 g Raney nickel are added and the mixture is stirred again for 3.5 h. After complete reaction, the mixture is filtrated. The residue is washed with MeOH and the solvent of the filtrate is removed in vacuo. The crude product is used without further purification.

reactant | 4-bromophenylacetone | 0.12 mol, 25.0 g | BrC1=CC=C(C=C1)CC(C)=O | C9H9BrO
reactant | ammonia | 7N, 400 mL | N | H3N
reactant | hydrogen | [H][H] | H2
solvent | MeOH | CO | CH4O
catalyst | Raney nickel | 1.20 g | [Ni] | Ni
catalyst | Raney nickel | 0.6 g | [Ni] | Ni
product | 1-(4-Bromophenyl)propane-2-amine | BrC1=CC=C(C=C1)CC(C)N | C9H12BrN
